US07271263B2
In a reactor were placed 0.60 g (22 m moles) of 3-(4,6-dimethoxypyrimidine-2-yl)-2-methylindole and 20 ml of ethyl acetate. Thereinto was blown ozone at 0° C. to 10° C. for 4 hours. Thin-layer chromatography was conducted to confirm the disappearance of 3-(4,6-dimethoxypyrimidine-2-yl)-2-methylindole and complete a reaction. Then, the reaction mixture was heated to room temperature and concentrated. To the concentrate were added 20 ml of methanol and 5 ml of 6 N hydrochloric acid, and refluxing was made for 1 hour with heating. After the completion of the reaction, the reaction mixture was cooled to room temperature. 100 ml of water was added. The mixture was made alkaline with an aqueous sodium hydroxide solution, and extraction was made with ethyl acetate. The organic layer was concentrated. The concentrate was subjected to column chromatography separation to obtain 0.26 g (10 m moles) of 2-(4,6-dimethoxypyrimidine-2-ylcarbonyl)aniline. Yield: 46%

reactant | 3-(4,6-dimethoxypyrimidine-2-yl)-2-methylindole | 0.60 g | COC1=NC(=NC(=C1)OC)C1=C(NC2=CC=CC=C12)C | C15H15N3O2
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
reactant | ozone | O=[O+][O-] | O3
solvent | water | 100 ml | O | H2O
product | 2-(4,6-dimethoxypyrimidine-2-ylcarbonyl)aniline | 0.26 g, Yield: 46% | COC1=NC(=NC(=C1)OC)C(=O)C1=C(N)C=CC=C1 | C13H13N3O3
